US07405210B2
5-Chloro-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid (2-phenoxyethyl)amide
The title compound was prepared as outlined in EXAMPLE 1 from 5-chloro-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid (Preparation 6) and 2-phenoxyethylamine. On completion of the reaction, the mixture was partitioned between water and dichloromethane on a hydrophobic frit, washing with dichloromethane. The organic filtrate was concentrated in vacuo then triturated with dichloromethane/methanol/ethyl acetate to give the title compound as a white solid.

reactant | 5-chloro-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid | ClC1=CC=C2C(=N1)C=C(N2)C(=O)O | C8H5ClN2O2
reactant | 2-phenoxyethylamine | O(C1=CC=CC=C1)CCN | C8H11NO
product | 5-Chloro-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid (2-phenoxyethyl)amide | O(C1=CC=CC=C1)CCNC(=O)C1=CC2=NC(=CC=C2N1)Cl | C16H14ClN3O2
